US04414389
A solution of 12 g (0.095 mole) 1,4-diazabicyclo[4.3.0]-nonane, 10 ml of acetic acid and 12.5 ml of 4-vinylpyridine in 225 ml methanol was heated at reflux for 20 hours. The solvent was removed under vacuum and the residue distilled to yield 5.1 g of 2(4-pyridylethyl)pyrrolo[1,2-a]pyrazine; b.p. 126°-130/0.01 mm.

reactant | 1,4-diazabicyclo[4.3.0]-nonane | 0.095 mole, 12 g | N12CCNCC2CCC1 | C7H14N2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | 4-vinylpyridine | 12.5 ml | C(=C)C1=CC=NC=C1 | C7H7N
solvent | methanol | 225 ml | CO | CH4O
product | 2(4-pyridylethyl)pyrrolo[1,2-a]pyrazine | 5.1 g | N1=CC=C(C=C1)CCN1CC=2N(C=C1)C=CC2 | C14H15N3
